US08048825B2
6-Methyl-3-[2-(trifluoromethanesulfonylamino)benzyl]-[1,3]-oxazepan-2-one (0.15 g, 0.41 mmol) and sodium hydrogen carbonate (0.06 g, 0.71 mmol) were suspended in acetonitrile (10 ml), added with isobutyl chloroformate (00.10 g, 0.73 mmol) and heated to reflux for three hours. After cooling to room temperature, the reaction mixture was added with water and extracted with ethyl acetate. The ethyl acetate layer was washed with a saturated brine and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=3:1) to obtain 3-(2-[N-(isobutoxycarbonyl)-N-(trifluoromethanesulfonyl)amino]benzyl)-6-methyl-[1,3]-oxazepan-2-one (0.10 g).

reactant | 6-Methyl-3-[2-(trifluoromethanesulfonylamino)benzyl]-[1,3]-oxazepan-2-one | 0.41 mmol, 0.15 g | CC1CCN(C(OC1)=O)CC1=C(C=CC=C1)NS(=O)(=O)C(F)(F)F | C14H17F3N2O4S
reactant | sodium hydrogen carbonate | 0.71 mmol, 0.06 g | C(O)([O-])=O.[Na+]
reactant | isobutyl chloroformate | 0.73 mmol | ClC(=O)OCC(C)C | C5H9ClO2
reactant | water | O | H2O
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 3-(2-[N-(isobutoxycarbonyl)-N-(trifluoromethanesulfonyl)amino]benzyl)-6-methyl-[1,3]-oxazepan-2-one | 0.10 g | C(C(C)C)OC(=O)N(S(=O)(=O)C(F)(F)F)C1=C(CN2C(OCC(CC2)C)=O)C=CC=C1 | C19H25F3N2O6S
